Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine / Percocet / Unasyn
 
Attending: ___.
 
Chief Complaint:
Left hallux ulcer/osteo
 
Major Surgical or Invasive Procedure:
s/p angio with L CIA stent/L SFA PTA/R EIA stent 

 
History of Present Illness:
___ PMHx sig for DM2 c/b peripheral neuropathy, CKD, s/p R BKA
___ p/w L hallux ulcer. He reports that about 1 month ago part
of his L big toenail was removed, in addition to part of the
bone. He states that he had recurrent ingrown toenails and
infections. He states that he has no feeling in his feet and has
not noticed any changes in apperance. He denies N/F/V/C, SOB, CP
or drainage. Of note, he was last seen in Dr. ___ 
___
and it was decided to undergo an arteriogram of his LLE. He
presents today for a LLE angiogram on ___.
 

 
Past Medical History:
PMH:
CKD, DM, proteinuria, PNA, HTN, PVD, hyperlipidemia, back pain

PSH: R BKA ___, Rt fem-BK pop bypass graft ___. Angioplasty of
outflow stenosis at the distal anastomosis in ___. 5-graft
occluded, 
criticial right common fem occlusion, ABI 0.3     
 

 
Social History:
___
Family History:
significant for diabetes. 
 
Physical Exam:
Discharge Physical Examination:
Alert and oriented x 3 
VS: BP  150/60  HR  78   RR  22  99%RA
Carotids: 2+, no bruits or JVD
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses: Left  Femoral p , DP d , ___ d
             Right Femoral p , s/p BKA 
Feet warm,  well perfused.  No open areas
Incisions
Wounds dry ulcer on L hallux
Groin puncture site: Dressing clean dry and intact. Soft, no 
hematoma or ecchymosis

 
Pertinent Results:
___ 09:15PM   GLUCOSE-184* UREA N-86* CREAT-3.2* SODIUM-139 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-29 ANION GAP-11
___ 09:15PM   CALCIUM-8.9 PHOSPHATE-4.5# MAGNESIUM-2.3
___ 09:15PM   WBC-12.0* RBC-3.84* HGB-11.2* HCT-33.4* 
MCV-87 MCH-29.1 MCHC-33.5 RDW-13.1
___ 09:15PM   PLT COUNT-218
 
Brief Hospital Course:
___ is a ___ year old male with past medical history 
significant for type 2 diabetes, complicated by peripheral 
neuropathy, chronic kidney disease, and status post right below 
knee amputation in ___, who was admitted to the 
vascular surgery service at ___ on ___ with a left hallux 
ulcer.  

He was treated with IV hydration, and made NPO prior to his 
procedure.  He was taken to the OR on ___ for 
ultrasound-guided access to the right common femoral artery with 
placement of ___ sheath, selective catheterization of SFA 
on the left third order vessel, abdominal aortogram, left lower 
extremity imaging, balloon angioplasty of proximal SFA with a 3 
x 80 mm balloon, stenting of left common iliac artery, with 
Express LD 8 x 27 mm stent, stenting of right common iliac 
extending into the external iliac artery with complete 7 x 60 mm 
stent posted to 6 mm, and closure of access with ___ 
Perclose device.  For full operative details, please see the 
operative report dated ___.  

He tolerated the procedure well, and was transported to the PACU 
for monitoring.  In the PACU, he was hypertensive, and had some 
nausea and vomiting.  An EKG was obtained, and troponins were 
cycled.  His troponins were mildly elevated, but his EKG was not 
concerning for an acute coronary event.  The patient refused his 
second round of troponins initially, and following the second 
round being slightly more elevated, refused another round.  The 
implications of his decision were discussed; however, he 
continued to refuse having any more blood work performed.

Additionally, given concerns for osteomyelitis, an infectious 
disease consult was obtained.  Levoquin was started, with the 
plan to continue it for a total of six weeks. 

He was discharged from the hospital on ___.  At that time, he 
was afebrile, and his vital signs were stable.  He was 
tolerating a regular diet, without any nausea or vomiting. He 
was ambulating without difficulty, and voiding adequate amounts 
of urine.  He was dicharged with instructions to follow-up in 
the vascular surgery clinic in one months time.  He will be 
contacted for the specifics of his appointment. 

 
Medications on Admission:
atorvastatin 40 mg', ciprofloxacin 500 mg'', Plavix 75 mg', 
gabapentin 300 mg''', Novolog Flexpen 100 unit/mL 
subcutaneous''', Novolog Flexpen 100 unit/mL (6 units prior to 
lunch), Levemir Flexpen 100 unit/mL (3 mL) subcutaneous insulin 
pen 26 units  at  2100, metoprolol tartrate 25 mg'', tamsulosin 
ER 0.4 mg ER' HS, torsemide 10 mg', asa 81mg'
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Gabapentin 300 mg PO DAILY 
6. Glargine 26 Units Bedtime
Humalog 6 Units Lunch
Insulin SC Sliding Scale using HUM Insulin
7. Levofloxacin 500 mg PO Q48H Duration: 6 Weeks 
RX *levofloxacin 500 mg 1 tablet(s) by mouth every other day 
Disp #*23 Tablet Refills:*0
8. Metoprolol Tartrate 25 mg PO BID 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Tamsulosin 0.4 mg PO HS 
11. Torsemide 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L hallux ulcer/osteomyelitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
MEDICATION:
•Take Aspirin 81mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort
Please continue your home insulin regimen

WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
•When you go home, you may walk and use stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___